US08754226B2
(S)-1′-(5-chloropyrazin-2-yl)-3-(2,5-difluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one (prepared according to the procedure of Example 45) (50 mg, 0.100 mmol) was dissolved in THF (2 mL) and K2CO3 (41.5 mg, 0.300 mmol) and PdCl2(dppf)*CH2Cl2 (8.17 mg, 0.0100 mmol) were added and purged with nitrogen. 1M diethylzinc (110 μL, 0.110 mmol) was added and the reaction was heated to 60° C. for 3 hours. The reaction was cooled to ambient temperature, concentrated in vacuo and purified over silica gel (70 to 90% EtOAc in hexanes) to afford (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenylamino)-1′-(5-ethylpyrazin-2-yl)-1,4′-bipiperidin-2-one (26.8 mg, 0.0543 mmol, 54.3% yield) as a tan solid. Mass spectrum (apci) m/z=494.3 (M+H).

reactant | (S)-1′-(5-chloropyrazin-2-yl)-3-(2,5-difluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one | ClC=1N=CC(=NC1)N1CCC(CC1)N1C([C@H](CCC1)NC1=C(C=C(C(=C1)F)S(=O)(=O)C)F)=O | C21H24ClF2N5O3S
reactant | K2CO3 | 0.300 mmol, 41.5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | diethylzinc | 0.110 mmol, 1M, 110 μL | C(C)[Zn]CC
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.0100 mmol, 8.17 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenylamino)-1′-(5-ethylpyrazin-2-yl)-1,4′-bipiperidin-2-one | 0.0543 mmol, 26.8 mg, 54.3% yield | FC1=C(C=C(C(=C1)S(=O)(=O)C)F)N[C@@H]1C(N(CCC1)C1CCN(CC1)C1=NC=C(N=C1)CC)=O | C23H29F2N5O3S
